US08349824B2
A mixture of 5-(2-(dimethylamino)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid (150 mg, 455 μmol), 3-fluoroazetidine hydrochloride (152 mg, 1.37 mmol), propylphosphonic anhydride (50% in ethyl acetate, 671 μl, 1.14 mmol) and diisopropylethylamine (398 μl, 2.28 mmol) in tetrahydrofurane (8 ml) is stirred for 18 hours at room temperature under nitrogen atmosphere. The solvent is evaporated and the residue triturated with sat. aqueous sodium hydrogencarbonate solution; the precipitated solid is collected by filtration, washed with water and dried affording N-(2-(dimethylamino)-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-4-(3-fluoroazetidine-1-carbonyl)-1-methyl-1H-pyrazole-5-carboxamide (158 mg, 89.8%) as a white solid. Mp.: 243-4° C. MS: m/z=387.2 (M+H+).

reactant | 5-(2-(dimethylamino)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid | 455 μmol, 150 mg | CN(C1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C(=O)O)=N1)C | C14H15N7O3
reactant | 3-fluoroazetidine hydrochloride | 1.37 mmol, 152 mg | Cl.FC1CNC1
reactant | propylphosphonic anhydride | 1.14 mmol, 671 μl | CCCP(=O)=O | C3H7O2P
reactant | diisopropylethylamine | 2.28 mmol, 398 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofurane | 8 ml | O1CCCC1 | C4H8O
product | N-(2-(dimethylamino)-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-4-(3-fluoroazetidine-1-carbonyl)-1-methyl-1H-pyrazole-5-carboxamide | 158 mg, 89.8% | CN(C1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C(=O)N2CC(C2)F)=N1)C | C17H19FN8O2
